datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10=20;20,21=21"
"FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([O:10][C:61]3=[C:62](C(F)(F)F)[CH:63]=[CH:64][CH:73]=[CH:72]3)[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]2)[S:71](C(F)(F)F)(=[O:72])=[O:82])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.ClC1=CC=C([P:10](C2=CC=C(Cl)C=C2)C2=CC=C(Cl)C=C2)C=C1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.ClC1=CC=C([P+:10](C2=CC=C(Cl)C=C2)(C2=CC=C(Cl)C=C2)[F:20])C=C1 10=20;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C[Si:63](C)(C)[O:12][C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)=[CH2:10]>>C[Si:63](C)(C)[O+:12]=[C:11](C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)[CH2:10][CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>N[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)[C:61]#[N:62])[CH:84]=[CH:85]1 10=20
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.CC[O:72][C:61]([C:10](=[C:11](C)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62]>>CC[O:72][C:61]([C:10]([C:11](C)=[O:12])([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(C)C=C(C)C=C2C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCCC1)=[O:62].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)CCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](C)=[CH:72]2.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20](C)[N:21]1C3=CC=CC=C3C3=C1C=CC=C3)[CH:72]=[C:73](C)[CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72].F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC[O:82][C:71]([C:10]1([CH:20](C2=CC=CC=C2)[CH-:21][S:32](F)(=[O:33])=[O:34])CCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
"CC1C(C)[O:62][C:11]([H:10])([CH:72]=[CH2:73])[O:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CC1C(C)[O:62][C:11]([CH:72]=[CH2:73])=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C12CCCC2.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)C12CCCC2 10,11=10,20;12=11,12"
